US08222248B2
To a stirred solution of 2-chloro-6-trifluoromethylbenzaldehyde (270 mg, 1.3 mmol) and 3,4-diaminobenzoic acid methyl ester (216 mg, 1.3 mmol) in DMSO (10 mL) was added Yb(OTf)3 (161 mg, 0.26 mmol) and the solution was stirred at ambient temperature overnight. The reaction was quenched with water and the aqueous layer was extracted with EtOAc. The organic layer was washed with water, brine, dried with MgSO4, and filtered. The solvent was removed under reduced pressure to give 2-(2-chloro-6-trifluoromethylphenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester as a red oil. This was used directly in the next step.

reactant | 2-chloro-6-trifluoromethylbenzaldehyde | 1.3 mmol, 270 mg | ClC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H4ClF3O
reactant | 3,4-diaminobenzoic acid methyl ester | 1.3 mmol, 216 mg | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
reactant | Yb(OTf)3 | 0.26 mmol, 161 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 2-(2-chloro-6-trifluoromethylphenyl)-3H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2C(F)(F)F)Cl)C=C1 | C16H10ClF3N2O2
